* C:\Users\Pedro\Desktop\Práctica - Fuentes de Alimentación Conmutada Libreria switching y average para fuentes conmutadas co\boost_average_CL.asc
C1 out 0 100µF
Rload out 0 6.6
L1 N002 out 300µ
RL N001 in 22m
Vg in 0 12 AC 0
XU1 N001 N002 N002 0 d CCM2 Ron=8m VD=0.5 RD=0.05
XU2 N008 N004 VPOS 0 y LT1215
B1 d 0 V=limit(V(x), 0.01, 0.9)
Vz1 x y AC 1
R4 out N003 2.8k
R5 N003 0 1k
Vg1 VPOS 0 12 AC 1
L2 N007 N003 1Meg
C3 N007 N010 1
V1 N010 0 AC 1
V2 N008 0 2.5
R1 N009 0 750
C2 N003 N009 1
R2 N007 N004 1k
C4 N004 N005 100n
R3 N005 y 100
R6 N006 N004 100k
C5 N007 N006 2.2µ
C6 N004 y 200n
* Simulation directives
.lib average.lib
* Boost converter\naverage model
.ac dec 300 1 100Meg
* .step param RLOAD list 8 20
;dc Vduty 0.2 0.9 0.01
* .tran 0 12m 7m 1u
.lib LTC.lib
.backanno
.end
